US08536168B2
N-benzyl-1-(3,6-dichloro-5-methylpyridazin-4-yl)methanamine (Compound 40)
To a stirred solution of 3,6-dichloro-4,5-dimethylpyridazine (500 mg, 2.82 mmol) in carbon tetrachloride (10 mL) was added N-bromosuccinimide (503 mg, 2.82 mmol), and AIBN (2.3 mg, 0.014 mmol) in a round bottom flask equipped with condenser. The reaction was continuously irradiated with a 300 W light and refluxed for 5 h. The formed succimide was filtered and the filtrate was concentrated to afford 4-(bromomethyl)-3,6-dichloro-5-methylpyridazine as a brown solid. To a solution of 4-(bromomethyl)-3,6-dichloro-5-methylpyridazine (400 mg, 1.56 mmol) in DMF was added with benzyl amine (188 μL, 1.72 mmol) and TEA (326 μL, 2.34 mmol). The reaction mixture was heated at 90° C. for 2 h, diluted with DCM and washed with water and brine. The organic layer was dried over Na2SO4 and concentrated to afford a brown oil. The crude material was purified by flash chromatography on silica gel, eluting with 30-80% EtOAc:heptane. Fractions containing the desired product were combined and concentrated to afford a the title compound as a greasy solid (430 mg, yield: 54% (two steps)).

reactant | 4-(bromomethyl)-3,6-dichloro-5-methylpyridazine | 1.56 mmol, 400 mg | BrCC1=C(N=NC(=C1C)Cl)Cl | C6H5BrCl2N2
reactant | benzyl amine | 1.72 mmol, 188 μL | C(C1=CC=CC=C1)N | C7H9N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-benzyl-1-(3,6-dichloro-5-methylpyridazin-4-yl)methanamine | 430 mg, yield: 54% | C(C1=CC=CC=C1)NCC1=C(N=NC(=C1C)Cl)Cl | C13H13Cl2N3
